US09145392B2
4-Amino-6-[4-(4-(4-fluoro-3-trifluoromethyl-phenyl)-1-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-1H-imidazol-2-yl)-piperidin-1-yl]-pyrimidine-5-carbonitrile (“363”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using N-(2-methoxyethyl)methylamine instead of cyclopropylmethylamine. LC-MS: (M+1=547, obsd.=547).

reactant | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCNCC1CC1 | C26H28F4N8
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | 4-Amino-6-[4-(4-(4-fluoro-3-trifluoromethyl-phenyl)-1-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-1H-imidazol-2-yl)-piperidin-1-yl]-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)CCOC | C26H30F4N8O
